US04772600
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for three hours with nitrogen bubbling through it. 3-Aminoquinuclidine dihydrochloride (20.8 g, 0.104 mole) and sodium methoxide (freshly prepared from 5.28 g of sodium metal in 50 ml of methanol) were stirred at room temperature for one hour. This second suspension was filtered and evaporated to an oil. The oil was extracted into boiling light petroleum ether (1500 ml) and the petroleum ether was then removed under reduced pressure to give 6.6 g of 3-aminoquinuclidine. The 3-aminoquinuclidine was dissolved in tetrahydrofuran (20 ml) and added to the solution containing the product resulting from the first suspension. The reaction mixture was stirred at room temperature under a nitrogen atmosphere overnight.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-Aminoquinuclidine dihydrochloride | 0.104 mole, 20.8 g | Cl.Cl.NC1CN2CCC1CC2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 5.28 g | [Na] | Na
solvent | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-aminoquinuclidine | 6.6 g | NC1CN2CCC1CC2 | C7H14N2
